Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
heparin / morphine
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
Upper Endoscopy
Capsule Endoscopy

 
History of Present Illness:
Mr. ___ is a ___ with a history HTN, diabetes, recurrent 
DVTs
on Coumadin, CKD not yet on HD (awaiting renal transplant),
adrenal hyperplasia b/l adrenelectomy, and recent colonoscopy
with polyp removal presenting with BRBPR and left-sided flank
pain. 

He reports rectal bleeding started around 1800 ___, and he has
had about 8 bloody bowel movements since. He had a colonoscopy
___ with polyp removal c/b BRBPR at that time. He also notes
Left-sided flank pain radiating to his umbilicus, ___ and
constant. He says this feels like his previous kidney stone 
pain.
Also reports nausea and palpitations, but denies vomiting, chest
pain, SOB.

Of note, he was recently admitted for similar complaints (___) at which time a colonoscopy was done that showed no source
of bleeding. His abdominal pain at that time was attributed to
post-polypectomy electrocoagulation syndrome.
His colonoscopy prior to this admission on ___ did show tubular
and sessile serrated adenomas which were removed.

In the ED, initial VS were: 98.7 80 193/91 20 97% RA
Exam notable for: 
CV: RRR, no mrg 
Pulm: CTAB 
Abd: Soft, diffuse mild pain to palpation, +CVA tenderness on
left. Rectal exam w/o stool in rectal vault, no obvious 
bleeding,
no external hemorrhoids. 
Labs showed: Hgb 10.9 -> 9.4, INR 3.0, Cr 5.0 (near baseline)
Imaging showed: 
-CT A/P w/o contrast:
1. Unchanged bilateral punctate nonobstructing renal calculi. No
hydronephrosis or calculi.
2. Diverticulosis without evidence of diverticulitis. No 
specific
findings to
explain bright-red blood per rectum.
3. Unchanged left renal cysts, 1 of which may have a septation
and may be
evaluated on non emergent ultrasound.
4. Diffuse hepatic steatosis.
Consults: GI
Patient received: IV PPI, 1L LR, dilaudid 0.5 x 3, fludrocort,
hydrocort, IV vitamin K and tylenol
Transfer VS were: 98.2 81 156/84 16 100% RA

On arrival to the floor, patient reports the above history.  He
is in ___ abdominal pain and asks for something stronger than
tylenol.  He had two bowel movements (dark with bright red blood
on top) this morning.  He denies fevers, chills, dysuria,
hematuria, chest pain, SOB, nausea/vomiting. 
 
Past Medical History:
- CKD Stage V undergoing evaluation for renal transplantation 
(possible LRRT with brother as donor)
- refractory HTN ___ adrenal hyperplasia
- chronic herpes meningitis on valacyclovir
- recurrent DVT on lifelong AC
- h/o LLE compartment syndrome c/b rhabdomyolysis s/p 
fasciotomies
- pre-diabetes
- h/o nephrolithiasis

- s/p bilateral open adrenalectomy for refractory HTN 
(?pheochromocytoma), in childhood and at age ___ (___ ___
- s/p lap appendectomy ___ ___
- s/p L shoulder surgery ___
- s/p LLE fasciotomies for compartment syndrome (___)
- s/p multiple b/l knee surgeries
 
Social History:
___
Family History:
- father deceased h/o colon cancer with brain metastases
- mother deceased from COPD

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS:  ___ 1026 Temp: 97.6 PO BP: 133/79 L Lying HR: 77 RR: 
18
O2 sat: 94% O2 delivery: Ra 
GENERAL: Overweight Caucasian male, tired and uncomfortable
appearing.  
HEENT: Sclerae anicteric, MMM.
CV: RRR, normal S1/S2, no murmurs, gallops, or rubs
PULM: Lungs CTAB
GI: abdomen soft, nondistended, diffusely tender (worst in
RUQ/LUQ) without rebound or guarding.  No hepatosplenomegaly.  
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ dorsalis pedis pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
  

DISCHARGE PHYSICAL EXAM
24 HR Data (last updated ___ @ 822)
    Temp: 98.0 (Tm 98.8), BP: 156/78 (156-171/73-99), HR: 56
(56-65), RR: 18 (___), O2 sat: 97% (93-97), O2 delivery: Ra  
GENERAL: Overweight Caucasian male, sitting up in NAD
HEENT: Sclerae anicteric, MMM.
CV: RRR, normal S1/S2, no murmurs, gallops, or rubs
PULM: Lungs CTAB
GI: abdomen soft, nondistended, mildly tender in LUQ/LLQ with no
rebound or guarding.  No hepatosplenomegaly.  
EXTREMITIES: no cyanosis, clubbing, trace edema bilaterally
PULSES: 2+ dorsalis pedis pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes
 
Pertinent Results:
ADMISSION LABS
==============
___ 02:24AM BLOOD WBC-8.5 RBC-3.08* Hgb-9.4* Hct-27.5* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-14.6 RDWSD-46.9* Plt ___
___ 10:05PM BLOOD ___ PTT-56.2* ___
___ 10:05PM BLOOD Glucose-155* UreaN-55* Creat-5.0* Na-147 
K-4.2 Cl-109* HCO3-20* AnGap-18
___ 06:17AM BLOOD Calcium-8.2* Phos-5.6* Mg-1.8

PERTINENT INTERVAL LABS
========================
___ 02:24AM BLOOD WBC-8.5 RBC-3.08* Hgb-9.4* Hct-27.5* 
MCV-89 MCH-30.5 MCHC-34.2 RDW-14.6 RDWSD-46.9* Plt ___
___ 06:17AM BLOOD WBC-9.2 RBC-2.68* Hgb-7.9* Hct-24.2* 
MCV-90 MCH-29.5 MCHC-32.6 RDW-14.5 RDWSD-47.0* Plt ___
___ 02:08PM BLOOD WBC-7.1 RBC-2.34* Hgb-6.9* Hct-21.1* 
MCV-90 MCH-29.5 MCHC-32.7 RDW-14.6 RDWSD-48.0* Plt ___
___ 08:59PM BLOOD WBC-8.6 RBC-2.92* Hgb-8.6* Hct-25.7* 
MCV-88 MCH-29.5 MCHC-33.5 RDW-14.3 RDWSD-45.7 Plt ___
___ 01:43AM BLOOD WBC-10.7* RBC-2.77* Hgb-8.3* Hct-25.2* 
MCV-91 MCH-30.0 MCHC-32.9 RDW-14.3 RDWSD-47.9* Plt ___
___ 04:53AM BLOOD WBC-9.2 RBC-2.64* Hgb-7.8* Hct-24.0* 
MCV-91 MCH-29.5 MCHC-32.5 RDW-14.6 RDWSD-48.0* Plt ___
___ 03:20PM BLOOD WBC-7.7 RBC-2.63* Hgb-7.7* Hct-23.6* 
MCV-90 MCH-29.3 MCHC-32.6 RDW-14.6 RDWSD-46.8* Plt ___
___ 04:59AM BLOOD WBC-6.6 RBC-2.47* Hgb-7.5* Hct-22.0* 
MCV-89 MCH-30.4 MCHC-34.1 RDW-14.6 RDWSD-46.9* Plt ___
___ 03:30PM BLOOD WBC-6.2 RBC-2.30* Hgb-7.1* Hct-21.1* 
MCV-92 MCH-30.9 MCHC-33.6 RDW-14.6 RDWSD-48.7* Plt ___
___ 06:45AM BLOOD WBC-7.0 RBC-2.21* Hgb-6.9* Hct-20.5* 
MCV-93 MCH-31.2 MCHC-33.7 RDW-14.7 RDWSD-50.0* Plt ___
___ 05:45PM BLOOD WBC-8.2 RBC-2.73* Hgb-8.2* Hct-25.1* 
MCV-92 MCH-30.0 MCHC-32.7 RDW-15.8* RDWSD-53.0* Plt ___
___ 03:45PM BLOOD WBC-7.7 RBC-2.62* Hgb-7.7* Hct-23.8* 
MCV-91 MCH-29.4 MCHC-32.4 RDW-16.0* RDWSD-52.3* Plt ___
___ 06:02AM BLOOD WBC-5.8 RBC-2.29* Hgb-6.6* Hct-21.1* 
MCV-92 MCH-28.8 MCHC-31.3* RDW-15.9* RDWSD-52.5* Plt ___
___ 07:52PM BLOOD WBC-6.1 RBC-2.48* Hgb-7.3* Hct-22.3* 
MCV-90 MCH-29.4 MCHC-32.7 RDW-15.6* RDWSD-50.7* Plt ___
___ 04:41AM BLOOD WBC-7.9 RBC-2.58* Hgb-7.4* Hct-23.1* 
MCV-90 MCH-28.7 MCHC-32.0 RDW-15.5 RDWSD-50.1* Plt ___
___ 06:46PM BLOOD WBC-7.7 RBC-2.77* Hgb-8.2* Hct-25.0* 
MCV-90 MCH-29.6 MCHC-32.8 RDW-15.7* RDWSD-51.0* Plt ___
___ 05:05AM BLOOD WBC-7.7 RBC-2.70* Hgb-8.1* Hct-24.1* 
MCV-89 MCH-30.0 MCHC-33.6 RDW-15.5 RDWSD-49.7* Plt ___
___ 09:15PM BLOOD WBC-7.5 RBC-2.73* Hgb-8.2* Hct-24.3* 
MCV-89 MCH-30.0 MCHC-33.7 RDW-15.4 RDWSD-49.1* Plt ___
___ 05:53AM BLOOD WBC-6.8 RBC-2.68* Hgb-7.9* Hct-23.8* 
MCV-89 MCH-29.5 MCHC-33.2 RDW-15.4 RDWSD-49.5* Plt ___
___ 03:30PM BLOOD WBC-7.2 RBC-2.74* Hgb-8.0* Hct-24.4* 
MCV-89 MCH-29.2 MCHC-32.8 RDW-15.6* RDWSD-49.1* Plt ___
___ 06:25AM BLOOD WBC-6.9 RBC-2.82* Hgb-8.2* Hct-24.8* 
MCV-88 MCH-29.1 MCHC-33.1 RDW-15.1 RDWSD-48.2* Plt ___
___ 03:24PM BLOOD WBC-7.7 RBC-2.78* Hgb-8.3* Hct-24.6* 
MCV-89 MCH-29.9 MCHC-33.7 RDW-15.2 RDWSD-48.8* Plt ___

___ 06:45AM BLOOD Ret Aut-2.6* Abs Ret-0.06
___ 05:11AM BLOOD %HbA1c-6.6* eAG-143*
___ 06:45AM BLOOD calTIBC-260 Ferritn-72 TRF-200
___ 04:59AM BLOOD Triglyc-484*

IMAGING
=======

___ CT ABDOMEN PELVIS
IMPRESSION:   
1. Unchanged bilateral punctate nonobstructing renal calculi.  
No 
hydronephrosis or obstructing ureteric calculi. 
2. Diverticulosis without evidence of diverticulitis.  No 
specific findings to explain bright-red blood per rectum. 
3. Unchanged left renal cysts, one of which may have a septation 
and may be evaluated on non emergent renal ultrasound. 
4. Diffuse hepatic steatosis. 

___ UPPER ENDOSCOPY
1. normal stomach
2. normal duodenum
3. erythema in the gastroesophageal junction compatible with 
esophagitis, other

___ CAPSULE ENDOSCOPY
Summary:
- Normal capsule endoscopy
- Poor prep in the proximal jejunum. Lesions could have been
missed

___ CT ABDOMEN PELVIS 
IMPRESSION:   
1. No retroperitoneal hematoma. 
2. Stable nonhemorrhagic trace pericardial effusion. 
3. Stable bilateral punctate nonobstructing renal stones. 
4. Diverticulosis without evidence of acute diverticulitis. 
5. Hepatic steatosis. 
6. Stable left renal cysts, one of which may have a septation. 
This could be further evaluated on nonemergent renal ultrasound. 


DISCHARGE LABS
==============
___ 06:34AM BLOOD WBC-6.2 RBC-3.06* Hgb-8.9* Hct-27.0* 
MCV-88 MCH-29.1 MCHC-33.0 RDW-15.0 RDWSD-48.8* Plt ___
___ 06:34AM BLOOD ___
___ 06:34AM BLOOD Glucose-151* UreaN-48* Creat-5.0* Na-145 
K-3.8 Cl-106 HCO3-24 AnGap-15
___ 06:34AM BLOOD Calcium-8.7 Phos-4.3 Mg-1.8
 
Brief Hospital Course:
___ is a ___ with a history HTN, paroxysmal AFib, 
diabetes, recurrent DVTs on Coumadin, CKD (awaiting renal 
transplant), adrenal hyperplasia b/l adrenelectomy, recent 
colonoscopy with polyp removal presenting with BRBPR and 
left-sided flank pain. Presented with a drop in his hemoglobin 
from 9.4 to 7.9 (baseline in the ___ range), and punctate 
nonobstructing kidney stones. Workup negative for bleeding 
source. 

ACUTE ISSUES:
===============
#BRBPR:
#Anemia: Pt presented with recurrent BRBPR with supratherapeutic 
INR. Differential initially included hemorrhoids, AVMs vs. less 
likely diverticular bleeding
or polyps. INR reversed w/ IV vitamin K 10 mg in the ED. 
Warfarin was subsequently held. He remained HD stable throughout 
his hospital course, and initially did not have any BRBPR after 
admission. In total he required 3 units PRBC. Given hemodynamic 
stability and 2 recent colonoscopies with no bleeding source 
prior to admission, GI team deferred colonoscopy. He had upper 
endoscopy and capsule endoscopy with no evidence of bleeding. 
Retic count elevated, iron slightly low. CT abd/pelv with no e/o 
RP bleed or other bleeding source. Hemolysis labs unremarkable. 
He was started on 8000 units of Epogen three times weekly given 
CKD. On ___ pt was being prepped for discharge but had one 
episode of hematochezia, so stayed overnight. HH remained 
stable. Colorectal surgery was consulted for evaluation of 
hemorrhoids, and deferred intervention given no active bleeding. 
Patient was discharged with PCP and GI followup, with plan to 
reinitiate warfarin without bridging. He was counseled on 
symptoms of GI bleed and when to return to the hospital. 
Hemoglobin on discharge 8.9.

#Anticoagulation:
#?HIT: 
# Multiple DVT on lifelong anticoagulation: We have no 
documented evidence of HIT, but pt and wife say he has had 
issues with low platelets and heparin in the past. However, his 
wife is positive he has been on lovenox since having the 
platelet issue after being on a heparin gtt. Hematology progress 
note from ___ under
external records tab says patient at some point was 
anticoagulated with fondaparinux due to question sensitivity to 
heparin in the past. THis note also recommends lifelong 
anticoagulation I/s/o multiple DVTs, although hypercoagulable
workup was negative and all 3 DVTs had potential triggers (L 
calf trauma, immobilization I/s/o meningitis, long car trip). 
Given uncertainty re: heparin allergy/HIT, heparin products were 
avoided. We discussed starting an argatroban drip with patient 
and wife once his blood counts were stable to see if he would 
re-bleed, but they deferred and preferred to restart patient's 
warfarin without a bridge. We did send a PF4 antibody, which was 
within normal limits but does not rule HIT out. 

#L flank pain: Noted to have small, nonobstructing calculi on 
CT, but otherwise no radiographic findings to explain symptoms. 
UA with small blood. No e/o CT scan from ___ of any concerning 
pathology. Pt has a h/o kidney stones, and he said pain felt 
similar. He required several days of IV narcotics and requested 
IV fluids. After several days he says he passed a small stone 
(not witnessed by RN or MD), and subsequently did not require 
any further IV narcotics. Continued home bentyl, pregablin, 
amitriptyline. 

#AF: Pt with episode of AF with RVR evening of ___, does not 
appear in ___ medical history but he says he has had it 
previously, "four times in my life". Now back to NSR. 
CHA2DS2-VASc 4. Warfarin was held I/s/o bleed. Continued home 
propranolol, did not switch to metoprolol given paroxysmal 
nature of AF and the fact that pt has been on propranolol for 
years with good BP control. Warfarin restarted on discharge. If 
patient cannot tolerate anticoagulation going forward because of 
recurrent GI bleed, may consider ___ procedure to reduce 
stroke risk with AFib. 

# HTN ___ adrenal hyperplasia
# Adrenal insufficiency: BP meds were initially held i/s/o GI 
bleed. Pt subseqently with repeated episodes of HTN with 
SBP>180. He says he is typically much better controlled at home. 
Improved with resolution of complete home regimen as below:
- Continue amLODIPine 10 mg PO DAILY 
- Continue CloNIDine 0.3 mg PO BID 
- Continue Fludrocortisone Acetate 0.2 mg PO BID 
- restarted home Propranolol 80 mg PO BID
- Continue Hydrocortisone 20 mg PO QAM 
- Continue Hydrocortisone 10 mg PO QHS 

CHRONIC ISSUES:
===============

# CKD Stage V undergoing evaluation for renal transplantation 
(possible LRRT with brother as donor). No current indications
for RRT. ___ remained stable. 

TRANSITIONAL ISSUES
===================
[] if patient cannot tolerate anticoagulation going forward, may 
be candidate for Watchman procedure to reduce stroke risk with 
AFib. 
[] please check CBC at upcoming PCP appointment to ensure 
stability (hemoglobin on discharge 8.9)

#CODE: Full (presumed)
#CONTACT: Name of health care proxy: ___ 
Relationship: Spouse 
Phone number: ___ 
Cell phone: ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Amitriptyline 10 mg PO QHS 
2. amLODIPine 10 mg PO DAILY 
3. CloNIDine 0.3 mg PO BID 
4. Fludrocortisone Acetate 0.2 mg PO BID 
5. Hydrocortisone 20 mg PO QAM 
6. Hydrocortisone 10 mg PO QHS 
7. Multivitamins 1 TAB PO DAILY 
8. Pantoprazole 40 mg PO Q12H 
9. Pregabalin 100 mg PO BID 
10. Propranolol 80 mg PO BID 
11. Warfarin 5 mg PO 1X/WEEK (___) 
12. Warfarin 2.5 mg PO 6X/WEEK (___) 
13. ValACYclovir 500 mg PO DAILY 

 
Discharge Medications:
1.  Amitriptyline 10 mg PO QHS  
2.  amLODIPine 10 mg PO DAILY  
3.  CloNIDine 0.3 mg PO BID  
4.  Fludrocortisone Acetate 0.2 mg PO BID  
5.  Hydrocortisone 20 mg PO QAM  
6.  Hydrocortisone 10 mg PO QHS  
7.  Multivitamins 1 TAB PO DAILY  
8.  Pantoprazole 40 mg PO Q12H  
9.  Pregabalin 100 mg PO BID  
10.  Propranolol 80 mg PO BID  
11.  ValACYclovir 500 mg PO DAILY  
12.  Warfarin 5 mg PO 1X/WEEK (___)  
13.  Warfarin 2.5 mg PO 6X/WEEK (___)  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
GI Bleed
Anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___.  

WHY WAS I IN THE HOSPITAL?  
- You had blood in your stool

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- You received blood transfusions for low blood counts
- You had an upper endoscopy and a capsule (camera) endoscopy 
that did not show any bleeding
- You were seen by the colorectal surgery team about your 
hemorrhoids, and they did not feel you needed surgery 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  
- If you notice any further bleeding, please call your doctor or 
go to the emergency department
- Please make sure to go to your ___ appointment on 
___ at 2pm

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___